US07635698B2
Mixture of (3R,4R; 3S, 4S)-{3-[4-(4-Chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-(4-chloro-phenyl)-methanone
3,4-Epoxypyrrolidine carbamate Wang resin (0.15 g, 0.18 mmol) was placed in a glass reaction vessel (4 mL). LiClO4 (57 mg, 3 eq.), N-Boc piperazine (186 mg, 5.5 eq.) and acetonitrile (2 mL) were added. The glass reactor was closed with a screw cap and the reaction mixture was heated at 80° C. for 43 h. The resin was transferred into syringes and washed with acetonitrile: H2O (1:1, 2×), DMF (3×), MeOH (3×), DMF (3×), and CH2Cl2 (5×). The BOC group was removed by treating the resin with 10% methyl sulfide in TFA (2 mL) for 1 hour. This solution was saved and later combined with a cleavage solution. The product was further cleaved from resin by shaking with a solution of TFA:CH2Cl2:H2O (2 mL of 70:30:1.5) for 2.5 h (2×). All the solutions were combined and condensed to afford 170 mg of crude 4-piperazin-1-yl-pyrrolidin-3-ol (bistrifluoroacetate salt, used without purification). The crude 4-piperazin-1-yl-pyrrolidin-3-ol was dissolved in DMF (dry, 2 mL). To this solution was added 4-chloro-benzoyl chloride (46 μL, 0.36 mmol), diisopropyl ethyl amine (620 μL, 3.6 mmol), and DMAP (2 mg). The solution was stirred at RT for 30 minutes, and then separated by preparative LC-MS to yield 16-mg of the title compound as the trifluoroacetate salt. ESIMS ([M+H]+): 448.3 (100).

reactant | 4-piperazin-1-yl-pyrrolidin-3-ol | N1(CCNCC1)C1C(CNC1)O | C8H17N3O
reactant | 4-chloro-benzoyl chloride | 0.36 mmol, 46 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | diisopropyl ethyl amine | 3.6 mmol, 620 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 2 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | {3-[4-(4-Chloro-benzoyl)-piperazin-1-yl]-4-hydroxy-pyrrolidin-1-yl}-(4-chloro-phenyl)-methanone | 16-mg | ClC1=CC=C(C(=O)N2CCN(CC2)C2CN(CC2O)C(=O)C2=CC=C(C=C2)Cl)C=C1 | C22H23Cl2N3O3
